US09416353B2
g. 2-(2-{[5-(3-chloropropyl)-2-furyl]methoxy}ethoxy)ethanamine
A solution of [5-(3-chloropropyl)-2-furyl]methanol (500 mg, 2.5 mmol) in ether (6 mL) was dried over 3 {acute over (Å)} molecular sieves. After the sieves were removed, pyridine (245 μL, 3.0 mmol) was added to the solution. Thionyl bromide (215 μL, 2.9 mmol) was added dropwise to the solution. After 7 hours of stirring, the solution was rapidly injected into a solution of sodium 2-[2-aminoethoxy]ethoxide (534 mg, 4.2 mmol) in DMF (3 mL). (Sodium 2-[2-aminoethoxy]ethoxide was previously prepared by adding 60% NaH dispersion (2.85 g, 0.07 mol) subsequently cleaned with heptane to a solution of 2-aminoethoxyethanol (5 g, 0.04 mol) in diglyme (10 mL), stirred for 5 hours, and evaporated.) After 2 hours the reaction was placed in the freezer. After 18 hours the reaction was partitioned between dichloromethane (DCM) (50 mL) and water (50 mL). Water layer was extracted with additional 30 mL DCM. The combined DCM layers were washed with water (30 mL). The DCM layer were extracted with diluted HCl (1N, 30 mL) followed by water (20 mL). The acidic aqueous solutions were adjusted to pH=10 with diluted sodium hydroxide and back extracted with 2×20 ml DCM. The DCM was washed with brine, dried with sodium sulfate, filtered, and evaporated to yield 380 mg (58% yield). Used without further purification. TLC: Rf 0.5 (IPA/NH4OH/water 8/1/1 exposed with ninhydrin solution) Mass spectrum, m/e Calcd for C12H21ClNO3+: 262.1 (100%), 264.1 (32%). Found: 262.6, 264.6.

reactant | [5-(3-chloropropyl)-2-furyl]methanol | 2.5 mmol, 500 mg | ClCCCC1=CC=C(O1)CO | C8H11ClO2
reactant | pyridine | 3.0 mmol, 245 μL | N1=CC=CC=C1 | C5H5N
reactant | Thionyl bromide | 2.9 mmol, 215 μL | S(=O)(Br)Br | Br2OS
reactant | sodium 2-[2-aminoethoxy]ethoxide | 4.2 mmol, 534 mg | NCCOCC[O-].[Na+]
reactant | NaH | [H-].[Na+]
reactant | 2-aminoethoxyethanol | 0.04 mol, 5 g | NCCOC(C)O | C4H11NO2
solvent | ether | 6 mL | CCOCC | C4H10O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | diglyme | 10 mL | COCCOCCOC | C6H14O3
solvent | heptane | CCCCCCC | C7H16
product | 2-(2-{[5-(3-chloropropyl)-2-furyl]methoxy}ethoxy)ethanamine | 58% yield | ClCCCC1=CC=C(O1)COCCOCCN | C12H20ClNO3
